US06489476B1
A solution of give 2-[N-Boc(amino)]-4-thiazolethiocarboxylic acid (1 mmole) in THF (5 mL) was cooled to −78° C. and treated with NaH (2 mmole) in small portions. After 10 min the reaction was treated with a solution of diethylphosphonomethyl triflate in THF (5 mL). The reaction was stirred at −78° C. for 1 h, and then quenched with H2O. Extraction and chromatography gave 2-[N-Boc(amino)]-4-diethylphosphonomethylthiocarbonylthiazole as a thick oil, which was subjected to Step D of Example 18 followed by Step C of Example 3 to give 2-amino-4-phosphonomethylthiocarbonylthiazole (18.5) as a solid. Mp>230° C. (decomp). Anal. Calcd. for C5H7N2O4PS2: C: 23.62; H: 2.78; N: 11.02. Found: C: 23.77; H: 2.61; N: 10.73.

reactant | 2-[N-Boc(amino)]-4-thiazolethiocarboxylic acid | 1 mmole | C(=O)(OC(C)(C)C)NC=1SC=C(N1)C(O)=S | C9H12N2O3S2
reactant | NaH | 2 mmole | [H-].[Na+]
reactant | diethylphosphonomethyl triflate | O(S(=O)(=O)C(F)(F)F)CP(=O)(OCC)OCC | C6H12F3O6PS
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2-[N-Boc(amino)]-4-diethylphosphonomethylthiocarbonylthiazole | C(=O)(OC(C)(C)C)NC=1SC=C(N1)C(=S)CP(=O)(OCC)OCC | C14H23N2O5PS2
